US07939661B2
Step 2: 3-Methyl-N5-piperidin-4-yl-pyridine-2,5-diamine dihydrochloride
A solution of 4-(6-amino-5-methyl-pyridin-3-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (2.84 g, 9.27 mmol) in dioxane (30 mL) and 4 M HCl in dioxane (20 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 207.1 [M+H]+.

reactant | 4-(6-amino-5-methyl-pyridin-3-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 9.27 mmol, 2.84 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC=1C=NC(=C(C1)C)N | C16H26N4O2
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 3-Methyl-N5-piperidin-4-yl-pyridine-2,5-diamine dihydrochloride | Cl.Cl.CC=1C(=NC=C(C1)NC1CCNCC1)N | InChI=1S/C11H18N4.2ClH/c1-8-6-10(7-14-11(8)12)15-9-2-4-13-5-3-9;;/h6-7,9,13,15H,2-5H2,1H3,(H2,12,14);2*1H
